US05252594
2-Phenyl-2-[(1,2,4-triazol-1-yl)methyl]-1-hexylamine
To 21 g (0.55 mole) of lithium aluminum hydride was charged 127 g (0.50 mole) alpha-butyl-alpha-phenyl-1H-1,2,4-triazole-1-propanenitrile in 2500 mL of dry ether over 2.5 hours with stirring under nitrogen. The reaction was stirred for an additional 5 hours after which GLC indicated the reaction was complete. The reaction was quenched with sodium sulfate, filtered and the organic phase separated. The aqueous phase was extracted with 1000 mL of ether. The organics were combined, washed with 3×1.5 liters of ice water, dried, filtered and concentrated without external heating and gave 88 g (69.2% yield) of a pale green oil.

reactant | lithium aluminum hydride | 0.55 mole, 21 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | alpha-butyl-alpha-phenyl-1H-1,2,4-triazole-1-propanenitrile | 0.50 mole, 127 g | C(CCC)C(C#N)(CN1N=CN=C1)C1=CC=CC=C1 | C15H18N4
solvent | ether | 2500 mL | CCOCC | C4H10O
product | 2-Phenyl-2-[(1,2,4-triazol-1-yl)methyl]-1-hexylamine | 88 g, 69.2% yield | C1(=CC=CC=C1)C(CN)(CCCC)CN1N=CN=C1 | C15H22N4
